US05480580
Then, 80 ml of a solution (1.55 mol/liter) of n-butyllithium in hexane was dropwise added to a mixed solution comprising 9.2 g of diisopropylamine and 100 ml of anhydrous THF at 0° C. in an argon gas stream, and 5 g of isobutyric acid was then dropwise added thereto. After the completion of the dropwise addition, the mixture was stirred at 0° C. for additional 10 min, 10 ml of hexamethylphosphoramide was added thereto, the mixture was stirred at 10° C. for 30 min, 16 g of (S)-2,2-diethyl-4-(2-iodoethyl)-1,3-dioxolane was added thereto at 0° C., and the mixture was stirred for 2 hr while maintaining the temperature at 0° C. To the reaction mixture was added 10 ml of water, and the pH value was adjusted to 5 with 1N hydrochloric acid. The reaction product was extracted with an ether, the extract was washed with a saturated saline solution and dehydrated over magnesium sulfate, the solvent was removed by distillation, and the resultant residue was purified by a silica gel column chromatography through the use of hexane-ethyl acetate as a developing solvent. The purified product was dissolved in THF, a few drops of 6N hydrochloric acid was added to the solution, and the mixture was stirred for 15 min, thereby eliminating a protecting group. The product was then poured into water and extracted with ethyl acetate, the extract was washed with a saturated saline solution, the solvent was removed from the extract by distillation, the resultant residue was dissolved in benzene, a small amount of p-toluenesulfonic acid was added thereto, water was removed from the mixture by azeotropic distillation, the mixture was poured into a saturated aqueous solution of sodium hydrogencarbonate, and the reaction product was extracted with an ether. The extract was washed with a saturated saline solution and dried over magnesium sulfate, the solvent was removed from the dried extract by distillation, and the residue was purified by a silica gel column chromatography through the use of hexane-ethyl acetate as a developing solvent to obtain 3.5 g of (S)-2,2-dimethyl-5-hydroxymethyl-valerolactone.

reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 9.2 g | C(C)(C)NC(C)C | C6H15N
reactant | isobutyric acid | 5 g | C(C(C)C)(=O)O | C4H8O2
reactant | (S)-2,2-diethyl-4-(2-iodoethyl)-1,3-dioxolane | 16 g | C(C)C1(OC[C@@H](O1)CCI)CC | C9H17IO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | water | 10 ml | O | H2O
solvent | hexamethylphosphoramide | 10 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (S)-2,2-dimethyl-5-hydroxymethyl-valerolactone | 3.5 g | CC1(C(=O)O[C@@H](CC1)CO)C | C8H14O3
